US05495046
5 g of 5-chlorosalicylaldehyde was dissolved in 300 ml of acetonitrile. After adding 41.48 g of potassium fluoride/alumina (neutral) (2:3) and 17.45 ml of (2-bromoethyl)benzene, the resulting mixture was stirred at room temperature for 63 hours. Then the potassium fluoride/alumina was removed by filtration under sucking and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent; n-hexane:ethyl acetate=10:1) and recrystallized from isopropyl ether to give 5.58 g of 5-chloro-2-(2-phenylethoxy)benzaldehyde.

reactant | 5-chlorosalicylaldehyde | 5 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | (2-bromoethyl)benzene | 17.45 ml | BrCCC1=CC=CC=C1 | C8H9Br
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 5-chloro-2-(2-phenylethoxy)benzaldehyde | 5.58 g | ClC=1C=CC(=C(C=O)C1)OCCC1=CC=CC=C1 | C15H13ClO2
